US08293768B2
Synthesis of ethyl 2-(3-(4-(difluoromethoxy)benzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 5, making variations to replace benzyl bromide with 4-(difluoromethoxy)benzyl bromide to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 88% yield: 1H NMR (300 MHz, DMSO-d6) δ 7.37 (d, J=8.1 Hz, 2H), 7.29 (d, J=8.1 Hz, 2H), 6.48 (t, JF-H=73.8 Hz, 1H), 4.46 (s, 2H), 4.26 (q, J=7.2 Hz, 2H), 4.07 (t, J=7.8 Hz, 2H), 3.45 (t, J=7.8 Hz, 2H), 2.56 (s, 3H), 1.30 (t, J=7.2 Hz, 3H); MS (ES+) m/z 412.2 (M+1).

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-(difluoromethoxy)benzyl bromide | FC(OC1=CC=C(CBr)C=C1)F | C8H7BrF2O
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-(4-(difluoromethoxy)benzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 88% yield | FC(OC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)OCC)=O)C=C1)F | C18H19F2N3O4S
